US07795262B2
Step 6. Preparation of 7-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-3-chloro-5,6,7,8-tetrahydropyrido[3,4-c]pyridazine
To a stirred solution of 3-chloro-5,6,7,8-tetrahydropyrido[3,4-c]pyridazine hydrogen chloride salt (0.9 g) in acetonitrile (10.0 ml) is added 2-chloro-(4-cyclobutyl-piperazine)-acetamide (1 g), K2CO3 (1.6 g), and NaI (50 mg). The resulting mixture is stirred at rt overnight. Water (20.0 ml) is added to quench the reaction, and then the acetonitrile is evaporated. The residue is extracted with DCM (20 ml×3). The combined organic phase is dried over sodium sulfate, and the solvent is removed under reduced pressure to give a residue which is purified by silica gel chromatography (EtOAc/4% TEA) to give the title compound.

reactant | 3-chloro-5,6,7,8-tetrahydropyrido[3,4-c]pyridazine hydrogen chloride salt | 0.9 g | Cl.ClC1=CC2=C(N=N1)CNCC2
reactant | 2-chloro-(4-cyclobutyl-piperazine) acetamide | 1 g | ClC1NCCN(C1)C1CCC1.C(C)(=O)N
reactant | K2CO3 | 1.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 50 mg | [Na+].[I-]
solvent | acetonitrile | 10.0 ml | C(C)#N | C2H3N
solvent | Water | 20.0 ml | O | H2O
product | 7-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-3-chloro-5,6,7,8-tetrahydropyrido[3,4-c]pyridazine | C1(CCC1)N1CCN(CC1)C(CN1CC=2N=NC(=CC2CC1)Cl)=O | C17H24ClN5O
